Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: SURGERY
 
Allergies: 
Tramadol / Darvon / Morphine / Codeine
 
Attending: ___.
 
Chief Complaint:
temp to 100.3 and emesis
 
Major Surgical or Invasive Procedure:
none

 
History of Present Illness:
___ 11 days s/p ileocecectomy with side-to-side, functional
end-to-end ileocolostomy, takedown of colostomy with 
side-to-side
colocolostomy, and takedown of splenic flexure.  His post-op
course was complicated by delirium, afib, and ileus.  He was
discharged on ___.  
He presents from rehab today with temp to 100.3 and emesis.  It
is difficult to obtain an accurate history because of baseline
memory impairment and easy delirium.  He reports passing gas and
no fevers.  + cough

 
Past Medical History:
1.  Spontaneous DVT R calf, ___.  On Coumadin/Lovenox.
2.  Ischemic colitis one week post melanoma surgery ___
requiring emergency exploratory surgery.  He underwent a large
bowel resection and a left-sided colostomy was placed.  
 - post op course for colectomy complicated by: atrial
fibrillation and arm infection, pulmonary emboli, bleeding
through his ostomy and pneumonia.  Prolonged rehab course.
3.  H/o melanoma, s/p excision ___.  History of surgical
resection X 2 on his back.
4.  Aortic stenosis, s/p porcine valve replacement in ___ at
___.
5.  Prostate cancer s/p prostatectomy in ___, although
surveillance since then is not certain.
6.  Aortic aneurysm which was repaired in ___
  - Complications surrounding surgery included lung collapse and
hallucination/confusion related to pain medication
7.  Sciatica which has required occasional steroid injections
8.  Hypercholesterolemia
9.  Hypertension
10. Hypothyroidism 
11. History of a compression fracture.
12. Osteoporosis
13. History of delirium - reported as "confusion and
hallucination" felt to be related to several pain medications
that he has received over his recent surgical history.  Per ___
pre-op assessment in ___, his daughter recalls
specifically difficulty with tramadol, codeine,
Darvon and morphine.
  -As a followup to the acute confusion that he experienced 
after
surgery his daughter did seek two separate memory evaluations in
___ one at the ___ and one at ___ Clinic.  The reported outcome of these visits was that 
his
memory was felt to be fairly good and that the confusion and
disorientation were related to an acute issue surrounding his
surgeries and pain medication.
14.  Memory impairment/executive dysfunction - At a previous
memory assessment, he was recommended to start on Aricept 5 mg
daily.  He has been on this for "preventative reasons" for the
past several years.  Daughter reports increased short term 
memory
difficulties. He is requiring more help managing finances and
medications.  Preop assessment in ___ suggested possible
executive dysfunction with an abnormal clock draw and a MMSE of
___.
.
PAST SURGICAL HISTORY:
1.  Removal of melanoma on the back ___ and ___.
2.  Porcine valve replacement ___.
3.  Prostatectomy ___.
4.  Aortic aneurysm repair ___.
5.  Colectomy with colostomy ___.
6.  Remote history of hernia repairs ___ and ___.

 
Social History:
Living Situation:  Mr. ___ lives in a raised ranch on a
single floor in ___, ___.  The living spaces are
arranged on one level and he has six stairs to climb to get in
and out of the house.  He is married to his second wife who 
lives
part-time with him and also spends some large amount of her time
with her other children.  Today, ___ confirms that his wife is
infrequently at home and pt essentially lives alone.  His
daughter ___ lives about a half hour away and is very helpful
to him.  He took a trip to ___ in ___ with his 
brothers.

He has a ___ in ___.  He
is a retired ___.

Habits:  He rarely drinks alcohol and reports about a half cup 
of
wine once a month or less.  He has never smoked.

 
Family History:
He reports no history of colon cancer. 
Remainder of details are not available.

 
Physical Exam:
At Admission:
Physical Exam:
Vitals: 99, 78, 126/66, 18, 96% on 6L
GEN: NAD, A/Ox2, easy to re-orient
Hent: dry mucosa
CV: RRR, No m/r/g
RESP: rhonci
ABD: soft, distended, tympanitic, staples still on incision,
c/d/i, old ostomy site is packed and clean, mildy tender 
Extrem: no c/c/e
.
At Discharge:
Vitals: 97.7, 82, 108/60, 18, 92% on RA
GEN: NAD, A/Ox2-3
CV: RRR, no m/r/g
RESP: LSCTAB, decreased bilateral bases. Productive cough
ABD: soft, NT/ND, non-tympanitic. +BS/Flatus
Incision: midline abdominal with staples, OTA CDI
old ostomy site is packed and clean, mildy tender
Extrem: no c/c/e

 
Pertinent Results:
___ culture-negative
___- Sputum culture-specimen contaminated with oral flora
___ cultures-no growth
.
___- CT Torso: LUL nodule, b/l pleural effusions, left 
greater than right. RLL pneumonia. Post-surgical changes at two 
anastomotic sites of the proximal and distal large bowel, with 
intervening large bowel distension consistent with ileus. No 
evidence of obstruction. 
.
___ SHOULDER, THREE VIEWS: There is ___ of an old 
distal clavicular fracture with sclerotic margins. There may 
also be an old healed fracture slightly more proximally of the 
clavicle. There is AC joint narrowing and small osteophyte 
formation consistent with OA. The visualized right upper lung is 
within normal limits. No acute fracture or dislocation is noted.
.
___ 06:20PM BLOOD WBC-13.6*# RBC-3.10* Hgb-10.2* Hct-31.1* 
MCV-100* MCH-32.9* MCHC-32.8 RDW-14.2 Plt ___
___ 05:15AM BLOOD WBC-11.5* RBC-2.96* Hgb-9.7* Hct-29.8* 
MCV-101* MCH-32.7* MCHC-32.5 RDW-14.5 Plt ___
___ 06:15AM BLOOD WBC-10.5 RBC-3.22* Hgb-10.4* Hct-33.2* 
MCV-103* MCH-32.3* MCHC-31.2 RDW-14.5 Plt ___
___ 06:20PM BLOOD Neuts-90.5* Lymphs-6.3* Monos-2.8 Eos-0.3 
Baso-0.2
___ 07:42PM BLOOD ___ PTT-26.0 ___
___ 05:15AM BLOOD ___ PTT-27.1 ___
___ 06:15AM BLOOD ___ PTT-31.7 ___
___ 06:15AM BLOOD ___
___ 10:30AM BLOOD ___
___ 06:20PM BLOOD Glucose-137* UreaN-29* Creat-1.0 Na-139 
K-4.5 Cl-105 HCO3-26 AnGap-13
___ 05:15AM BLOOD Glucose-112* UreaN-14 Creat-1.0 Na-135 
K-4.0 Cl-104 HCO3-25 AnGap-10
___ 06:15AM BLOOD Glucose-99 UreaN-12 Creat-1.2 Na-138 
K-4.1 Cl-102 HCO3-29 AnGap-11
___ 06:20PM BLOOD ALT-101* AST-131* AlkPhos-108 TotBili-0.4
___ 06:20PM BLOOD Lipase-23
___ 06:20PM BLOOD Albumin-2.9*
___ 05:50AM BLOOD Albumin-2.5* Calcium-7.0* Phos-2.5* 
Mg-2.3
___ 06:15AM BLOOD Calcium-8.2* Phos-2.6* Mg-2.4
___ 06:15AM BLOOD Phos-3.6 Mg-2.4
 
Brief Hospital Course:
Mr. ___ presented to ___ ED for further evaluation of 
post-op fever and nausea. CT scan of Torso obtained-noted to 
have bilateral pleural effusions-likely pneumonia and ileus, and 
persistent LUL nodule. No obstruction noted. Made NPO. Started 
on IV hydration and IV antibiotics. Blood, urine, and sputum 
cultures sent. Labwork sent, WBC slightly elevated to 13, 
INR-1.4. Coumadin held in case of need for surgical 
intervention. General Surgery consulted. No surgery indicated at 
this time. Coumadin resumed. 
.
Patient admitted to ___ for further observation and 
management. Diet advanced gradually. Abdominal exam improved. 
Decreased tenderness, +BS/flatus. Patient c/o right shoulder 
pain-xrays obtained, negative for fracture (refer to results 
section). Lidocaine patches applied to right shoulder and back. 
Back pain is chronic.
.
Daily labwork including INR checked. Coumadin dose titrated 
accordingly. INR on ___. Coumadin dose held for 48 hours. 
Last dose given on ___, 2mg. 
Diet advanced to regular food with Ensure supplements. 
Tolerating well. No N/V or abdominal pain/distention. Urinating 
adequate amounts. Passing flatus. BM on ___.
.
Pneumonia: Continue chest ___, frequent ambulation, and PO 
Levaquin for another 10days. Assess WBC's as indicated, and if 
patient becomes febrile.
.
Diet: Continue to advance diet, and monitor nutritional intake.
.
Patient, and daughter, ___ advised to follow-up with Dr. 
___ regarding timing of staple removal which should 
be removed within 1 week, and to discuss pathology results.

 
Medications on Admission:
Alendronate 70'/week, Aricept 5' (HOLD), Lovenox 80 qD 
(discontinued-bridge completed), folic acid 1', Levothyroxine 
75', Metoprolol 25'', Zocor 80', Wafarin 7.5 2 days of the week 
and 5 mg 5 days, ASA 81', Tums 500", B12 1000', Colace, Senna, 
MTV 
 
Discharge Medications:
1. Levothyroxine 75 mcg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
2. Metoprolol Tartrate 25 mg Tablet Sig: One (1) Tablet PO BID 
(2 times a day).  
3. Lidocaine 5 %(700 mg/patch) Adhesive Patch, Medicated Sig: 
One (1) Adhesive Patch, Medicated Topical Q DAY () as needed for 
back pain.  
4. Lidocaine 5 %(700 mg/patch) Adhesive Patch, Medicated Sig: 
One (1) Adhesive Patch, Medicated Topical DAILY (Daily) as 
needed for right shoulder pain.  
5. Metoclopramide 10 mg Tablet Sig: One (1) Tablet PO QID (4 
times a day) as needed for nausea for 2 weeks.  
6. Acetaminophen 325 mg Tablet Sig: Two (2) Tablet PO QID (4 
times a day) as needed for pain for 2 weeks.  
7. Docusate Sodium 100 mg Capsule Sig: One (1) Capsule PO BID (2 
times a day) as needed for constipation.  
8. Multivitamins     Tablet, Chewable Sig: One (1) Tablet PO 
DAILY (Daily).  
9. Aspirin 81 mg Tablet Sig: One (1) Tablet PO once a day.  
10. Levofloxacin 250 mg Tablet Sig: Three (3) Tablet PO Q48H 
(every 48 hours) for 10 days: Treatment of pneumonia.  
11. Fosamax 70 mg Tablet Sig: One (1) Tablet PO once a week.  
12. Calcium 600 + D(3) 600-400 mg-unit Tablet Sig: One (1) 
Tablet PO twice a day.  

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
Primary:
Pneumonia-fever
post-op ileus
.
Secondary:
On ___:
1. Laparotomy and lysis of adhesions.
2. Ileocecectomy with side-to-side, functional end-to-end
    ileocolostomy.
3. Takedown of colostomy with side-to-side colocolostomy.
4. Takedown of splenic flexure.
for Sessile villous adenoma of the cecum, post-op delirium, 
post-op Atrial fibrillation.
.
PMH: Porcine aortic valve replacement ___, Aortic aneurysm 
repair ___, Prostatectomy ___, colostomy secondary to ischemic 
colon in ___ c/b PE/Afib/PNA, Remote history of hernia 
repairs ___ and ___, Removal of melanoma on the back ___ and 
___ 

 
Discharge Condition:
Stable 
Tolerating a regular diet
Pain well controlled with Tylenol

 
Discharge Instructions:
REHAB Instruction:
Please call your doctor or return to the ER for any of the 
following:
* You experience new chest pain, pressure, squeezing or 
tightness.
* New or worsening cough or wheezing.
* If you are vomiting and cannot keep in fluids or your 
medications.
* You are getting dehydrated due to continued vomiting, 
diarrhea or other reasons. Signs of dehydration include dry 
mouth, rapid heartbeat or feeling dizzy or faint when standing.
* You see blood or dark/black material when you vomit or have a 
bowel movement.
* Your pain is not improving within ___ hours or not gone 
within 24 hours. Call or return immediately if your pain is 
getting worse or is changing location or moving to your chest or 

back.
*Avoid lifting objects > 5lbs until your follow-up appointment 
with the surgeon.
*Avoid driving or operating heavy machinery while taking pain 
medications.
* You have shaking chills, or a fever greater than 101.5 (F) 
degrees or 38(C) degrees.
* Any serious change in your symptoms, or any new symptoms that 
concern you. 
* Continue to ambulate several times per day.
.
Incision Care:
-Your staples will be removed at ___ at your follow-up 
appointment with Dr. ___.
-Your steri-strips will fall off on their own. Please remove any 
remaining strips ___ days after surgery.
-You may shower, and wash surgical incisions.
-Avoid swimming and baths until your follow-up appointment.
-Please call the doctor if you have increased pain, swelling, 
redness, or drainage from the incision sites.
.
Colostomy closure site:
-Continue to pack this site with moistened gauze in normal 
saline twice a day. 
-Monitor closely for symptoms of infection. Contact Dr. ___ 
with any questions/concerns.
.
Medications:
1. Lopressor-Dose 25mg BID 
2. Aricept-Dose held post-op due to post-op delirium. Consult 
PCP as to resuming this medication.
3. Coumadin-bridged from lovenox to coumadin during this 
admission. Resumed gradually while on clear liquids, INR bumped 
to 5.2________. Held for a few days. Resumed at 1 mg PO with 
close INR monitoring, daily dosing titrated based on INR. Now on 
regular diet. Home dose regimen: Wafarin 7.5 2 days of the week 
and 5 mg 5 days.

 
Followup Instructions:
___